US07737166B2
7-Fluoro-2-(2-methoxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-100)
7-Fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-99) (50 mg, 0.15 mmol) was dissolved in methylene chloride (0.5 ml), aqueous 42% tetrafluoroboric acid solution (32 μl, 0.15 mmol) was added, then with cooling with ice, trimethylsilyldiazomethane (2 M hexane solution, 77 μl, 0.15 mmol) was dropwise added, followed by stirring at 0° C. for 10 minutes, further trimethylsilyldiazomethane (2 M, hexane solution, 77 μl, 0.15 mmol) was dropwise added, followed by stirring at 0° C. for 1 hour. After the reaction, water was added followed by extraction with methylene and washing with saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative thin-layer silica gel column chromatography, eluted with n-hexane/ethyl acetate (5:1, v/v) to obtain the entitled compound (41.2 mg, 79%) as a colorless transparent oily substance.

reactant | 7-Fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)C(CO)(C)C)C#N)C)C2=CC=CC=C2 | C19H17FN2O2
reactant | tetrafluoroboric acid | 0.15 mmol, 32 μl | F[B-](F)(F)F.[H+]
reactant | trimethylsilyldiazomethane | 0.15 mmol, 2 M, 77 μl | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | trimethylsilyldiazomethane | 0.15 mmol, 2 M, 77 μl | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | water | O | H2O
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-2-(2-methoxy-1,1-dimethylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 41.2 mg, 79% | FC=1C(=C(C(=C2N=C(OC21)C(COC)(C)C)C#N)C)C2=CC=CC=C2 | C20H19FN2O2
